US04535183
6-Hydroxy-2-methoxy-3-n-propoxybenzaldehyde (5.25 g, 0.025 M), ethyl 5-brown pentanoate (3.96 ml, 0.025 M), anhydrous potassium carbonate (3.71 g). sodium iodide (0.15 g) and 95% ethanol (50 ml) were refluxed with stirring for 16 hr. The cooled reaction mixture was filtered and the solid washed well with ethanol. The filtrate was evaporated to dryness and the residue partitioned between ether and water. The organic layer was separated and washed with 2 N sodium hydroxide solution, water, dried (sodium sulphate) and evaporated to give ethyl 5-(2-formyl-3-methoxy-4-n-propoxyphenoxy)pentanoate as an oil.

reactant | 6-Hydroxy-2-methoxy-3-n-propoxybenzaldehyde | 0.025 M, 5.25 g | OC1=CC=C(C(=C1C=O)OC)OCCC | C11H14O4
reactant | potassium carbonate | 3.71 g | C([O-])([O-])=O.[K+].[K+]
reactant | sodium iodide | 0.15 g | [I-].[Na+]
reactant | ethanol | 50 ml | C(C)O | C2H6O
product | ethyl 5-(2-formyl-3-methoxy-4-n-propoxyphenoxy)pentanoate | C(=O)C1=C(OCCCCC(=O)OCC)C=CC(=C1OC)OCCC | C18H26O6
